US05529718
3.5 g of 4-(5-benzyloxypyrimidin-2-yl)pheny1 nonanoate are dissolved in 100 ml of THF, 0.5 g of 10% Pd on activated charcoal is added, and the mixture is hydrogenated at 25° C. with stirring. The mixture is filtered through corolite, and the solvent is removed in vacuo, giving 2.5 g of 4-(5-hydroxyprimidin-2-yl)phenyl nonanoate.

reactant | 4-(5-benzyloxypyrimidin-2-yl)pheny1 nonanoate | 3.5 g | C(CCCCCCCC)(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)OCC1=CC=CC=C1 | C26H30N2O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Pd on activated charcoal | 0.5 g | [Pd] | Pd
product | 4-(5-hydroxyprimidin-2-yl)phenyl nonanoate | 2.5 g | C(CCCCCCCC)(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)O | C19H24N2O3
